US06020371
A solution of isovaleraldehyde (8.61 g, 100 mmol, 1 equiv) in THF (30 mL) was added dropwise via addition funnel to a solution of vinylmagnesium bromide (100 mL of a 1.0 M solution in THF, 100 mmol, 1.0 equiv) in THF (150 mL) at 0° C. After the addition was completed, the reaction mixture was stirred for 30 minutes at 0° C., and then was partitioned between saturated NH4Cl (150 mL) and Et2O (2×150 mL). The combined organic layers were dried over Na2SO4 and concentrated to afford a yellow oil. This material was combined (neat) with diethyl malonate (16.7 mL, 110 mmol, 1.1 equiv) and Ti(OEt)4 (2.10 mL, 10.0 mmol, 0.10 equiv), and the combination was heated to 160° C. for 1 hour (distilling out EtOH as it was formed). The reaction mixture was then maintained at 190° C. for 4 hours and then cooled to 60° C. EtOH (50 mL) and 6.0 M KOH (50 mL) were added sequentially, and the brown reaction mixture was refluxed for 4 hours. After cooling to 23° C., the reaction mixture was filtered through a medium frit, and the filtrate was partitioned between water (150 mL) and Et2O (2×150 mL). The aqueous layer was then acidified to pH=2 (as indicated by pH paper) with concentrated HCl and extracted with a 1:1 mixture of EtOAc and hexanes (2×150 mL). The combined organic layers were dried over Na2SO4, concentrated, and the residue was distilled at reduced pressure to afford trans-7-methyl-oct-4-enoic acid (4.62 g, 30%) as a colorless liquid: bp: 115-120° C. (1 torr); 1H NMR (CDCl3) δ 0.86 (d, 6H, J=5.5), 1.51-1.65 (m, 1H), 1.87 (t, 2H, J=6.5), 2.22-2.38 (m, 2H), 2.40-2.45 (m, 2H), 5.34-5.52 (m, 2H); Anal. (C9H16O2) C, H.

reactant | isovaleraldehyde | 100 mmol, 8.61 g, 1 equiv | C(CC(C)C)=O | C5H10O
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | diethyl malonate | 110 mmol, 16.7 mL, 1.1 equiv | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | KOH | 6.0 M, 50 mL | [OH-].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EtOH | 50 mL | CCO | C2H6O
product | trans-7-methyl-oct-4-enoic acid | 4.62 g, 30% | CC(C/C=C/CCC(=O)O)C | C9H16O2
